US04268513
6-methoxy-2-methylquinoline-3,4-dicarboxylic acid (xiv)
A solution of 59.4 g (0.335 mole) of 5-methoxyisatin, 225 g KOH in 800 ml H2O was treated dropwise with 121.4 g (0.932 mole) of ethylacetoacetate at 55° over a 2 hour period. The solution was refluxed 45 minutes and stirred 2 days at room temperature. Acidification with 300 ml concd. HCl while maintaining the temperature at ambient conditions gave a tan solid that was filtered, washed with H2O and dried; yield 60.8 g (69.4% ).

reactant | 5-methoxyisatin | 0.335 mole, 59.4 g | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
reactant | KOH | 225 g | [OH-].[K+]
reactant | ethylacetoacetate | 0.932 mole, 121.4 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | HCl | Cl | ClH
solvent | H2O | 800 ml | O | H2O
product | 6-methoxy-2-methylquinoline-3,4-dicarboxylic acid | COC=1C=C2C(=C(C(=NC2=CC1)C)C(=O)O)C(=O)O | C13H11NO5
